US06458810B1
A solution of 2,6-dioxo-3-benzyloxycarbonylamino-5-acetoxypiperidine (9 g, 28.2 mmol) and Pd/C (10%, 0.9 g) in acetic acid (90 mL) is shaken under hydrogen (50-60 psi) for 3 hours. The suspension is filtered through a pad of Celite and washed with acetic acid and the solvent is then removed in vacuo. The residue, triethylamine (2.9 g, 28 mmol), and methyl 2-bromomethyl-3-nitrobenzoate (7.7 g, 28.2 mmol) in dimethylformamide (100 mL) is heated at 80° C. for 18 hours. The solvent is removed in vacuo to give 3-(4-nitro-1-oxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine which can be further purified by column chromatography.

reactant | 2,6-dioxo-3-benzyloxycarbonylamino-5-acetoxypiperidine | 28.2 mmol, 9 g | O=C1NC(C(CC1NC(=O)OCC1=CC=CC=C1)OC(C)=O)=O | C15H16N2O6
reactant | triethylamine | 28 mmol, 2.9 g | C(C)N(CC)CC | C6H15N
reactant | methyl 2-bromomethyl-3-nitrobenzoate | 28.2 mmol, 7.7 g | BrCC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H8BrNO4
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | Pd/C | 0.9 g | [Pd] | Pd
product | 3-(4-nitro-1-oxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)C1C(NC(C(C1)OC(C)=O)=O)=O | C15H13N3O7
